US09085540B2
To a mixture of 3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (500 mg), and N-methylpyrrolidone (5 mL) were added pyridin-4-ylboronic acid (407 mg), tetrakistriphenylphosphine palladium (0) (164 mg), and a 2 M aqueous sodium carbonate solution (2.84 mL), followed by stirring in a microwave reaction device at 140° C. for 1 hour. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform:methanol:28% aqueous ammonia=1:0:0-15:1:0.1) to obtain 3-{[4-(4-methylpiperazin-1-yl)-3-(pyridin-4-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (64 mg) as a yellow solid.

reactant | 3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 500 mg | BrC=1C=C(C=CC1N1CCN(CC1)C)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C22H22BrN7O4
reactant | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
reactant | pyridin-4-ylboronic acid | 407 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 2 M, 2.84 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-{[4-(4-methylpiperazin-1-yl)-3-(pyridin-4-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 64 mg | CN1CCN(CC1)C1=C(C=C(C=C1)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N)C1=CC=NC=C1 | C27H26N8O4
